US07026477B1
Methyl 4-iodo-2-{N-[N-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)-aminocarbonyl]aminosulfonyl}benzoate
Under protective gas, a 14.5% strength solution (1465 g) of methyl 4-iodo-2-isocyanatosulfonylbenzoate in xylene is added over 4 hours at a constant rate at 50° C. to a suspension of 84.5 g of 2-amino-4-methoxy-6-methyl-1,3,5-triazine in 670 g of ethyl acetate. After the addition has ended, the mixture is stirred at the same temperature for approximately 4 hours, and the ethyl acetate is then distilled off under reduced pressure (80–60 mbar, T=50° C.). The suspension that remains is filtered off with suction and the solid is washed repeatedly with dilute hydrochloric acid and dried; if appropriate, acetone can be added to the hydrochloric acid. This gives 297 g (content>98%) of the title compound; yield 99.2% of theory.

reactant | methyl 4-iodo-2-isocyanatosulfonylbenzoate | 1465 g | IC1=CC(=C(C(=O)OC)C=C1)S(=O)(=O)N=C=O | C9H6INO5S
reactant | 2-amino-4-methoxy-6-methyl-1,3,5-triazine | 84.5 g | NC1=NC(=NC(=N1)OC)C | C5H8N4O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate | 670 g | C(C)(=O)OCC | C4H8O2
product | Methyl 4-iodo-2-{N-[N-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)-aminocarbonyl]aminosulfonyl}benzoate | yield 99.2% | IC1=CC(=C(C(=O)OC)C=C1)S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)OC)C | C14H14IN5O6S
